US07592342B2
Preparation of N-{5-[3-(4-{[2-(methylsulfonyl)ethyl]amino}-1-piperidinyl)-6-quinoxalinyl]-3-pyridinyl}benzenesulfonamide
A slurry of a 1-(7-bromo-2-quinoxalinyl)-N-[2-(methylsulfonyl)ethyl]-4-piperidinamine (0.48 mmol), N-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]benzenesulfonamide (0.53 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane complex (1:1) (0.03 mmol) in 1,4-dioxane (4 ml) and 2M solution potassium carbonate (2 ml) was stirred at 100° C. for 3 hours. The reaction was cooled to ambient temperature, separated the organic layer and purified directly on silica by column chromatography (10% methanol/ethyl acetate). The desired fractions were combined and concentrated to give the title compound (15 mg, 6%) as a tan solid. MS(ES)+ m/e 567.4 [M+H]+.

reactant | 1-(7-bromo-2-quinoxalinyl)-N-[2-(methylsulfonyl)ethyl]-4-piperidinamine | 0.48 mmol | BrC1=CC=C2N=CC(=NC2=C1)N1CCC(CC1)NCCS(=O)(=O)C | C16H21BrN4O2S
reactant | N-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]benzenesulfonamide | 0.53 mmol | CC1(OB(OC1(C)C)C=1C=C(C=NC1)NS(=O)(=O)C1=CC=CC=C1)C | C17H21BN2O4S
reactant | potassium carbonate | 2 ml | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | N-{5-[3-(4-{[2-(methylsulfonyl)ethyl]amino}-1-piperidinyl)-6-quinoxalinyl]-3-pyridinyl}benzenesulfonamide | 15 mg, 6% | CS(=O)(=O)CCNC1CCN(CC1)C=1C=NC2=CC=C(C=C2N1)C=1C=C(C=NC1)NS(=O)(=O)C1=CC=CC=C1 | C27H30N6O4S2
